US08314091B2
To a solution of (R)—N-sec-butyl-3-(piperazin-1-ylmethyl)benzamide (5.08 mmol, 1.4 g), 4-amino-3-fluorobenzoic acid (5.08 mmol, 0.789 g) and triethylamine (15.25 mmol, 2.126 mL, 1.543 g) in dichloromethane (80 mL) was added 1-propanephosphonic acid cyclic anhydride (7.63 mmol, 2.270 mL, 2.426 g, 50% solution in ethyl acetate). The reaction mixture was stirred for 1 hour then was diluted with ethyl acetate and potassium carbonate (aqueous). The organic layer was separated, dried (magnesium sulfate) and concentrated under reduced pressure. Chromatography on silica (eluting with ethyl acetate to ethyl acetate/methanol (5%)) gave the intermediate (R)-3-((4-(4-amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-sec-butylbenzamide (1.2 g).

reactant | (R)—N-sec-butyl-3-(piperazin-1-ylmethyl)benzamide | 5.08 mmol, 1.4 g | [C@@H](C)(CC)NC(C1=CC(=CC=C1)CN1CCNCC1)=O | C16H25N3O
reactant | 4-amino-3-fluorobenzoic acid | 5.08 mmol, 0.789 g | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | triethylamine | 15.25 mmol, 2.126 mL, 1.543 g | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 7.63 mmol, 2.270 mL, 2.426 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | (R)-3-((4-(4-amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-sec-butylbenzamide | 1.2 g | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)N[C@H](C)CC)C=CC2)C=C1)F | C23H29FN4O2
